US07625922B2
1-(4-(2-Amino-3-nitropyridin-4-yl-oxy)phenyl)-3-phenylurea (CJS 3241)
Method H3 was used with 4-(4-aminophenoxy)-3-nitropyridin-2-amine (50 mg, 0.2 mol) and phenyl isocyanate (22 μL, 0.2 mmol) to afford the title compound (54 mg, 74%). 1H-NMR (δ, ppm, DMSO-d6): 5.96 (d, 1H, HPy,5, J=5.72 Hz), 6.99 (t, 1H, Harom,Ph′,4), 7.13-7.16 (m, 4H, NH2,Py+Harom,Ph,3+5), 7.30 (t, 2H, Harom,Ph′,3+5, J=7.90 Hz), 7.48 (d, 2H, Harom,Ph′,2+6′J=7.69 Hz), 7.55 (d, 2H, Harom,Ph,2+6, J=8.93 Hz), 8.00 (d, 1H, HPy,6, J=5.78 Hz), 8.69 (s, 1H, NHurea,1), 8.81 (s, 1H, NHurea,3); LC-MS (m/z): 366 (M+H, 100).

reactant | 4-(4-aminophenoxy)-3-nitropyridin-2-amine | 0.2 mol, 50 mg | NC1=CC=C(OC2=C(C(=NC=C2)N)[N+](=O)[O-])C=C1 | C11H10N4O3
reactant | phenyl isocyanate | 0.2 mmol, 22 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
product | 1-(4-(2-Amino-3-nitropyridin-4-yl-oxy)phenyl)-3-phenylurea | 54 mg, 74% | NC1=NC=CC(=C1[N+](=O)[O-])OC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C18H15N5O4
